US05834506
2-tert-Butyl-4-(2-methoxymethoxy-ethoxy)-5-methyl-benzenethiol
Bis[2-(1,1-dimethylethyl)-4-[2-(methoxymethoxy)ethoxy]-5-methylphenyl]disulfide prepared in Example ZZZ (7.0 g, 12 mmol) was taken in 100 mL of EtOH. To it 21 g (136 mmol) of dithiothreitol and 10 mL of dibasic phosphate buffer (pH:4.5) was added. The reaction was kept at 80°-90° C. overnight, then cooled to 0° C. and poured into H2O; the product was extracted with hexanes:EtOAc (8:2) solvent system. The organic layer was washed with H2O and dried (Na2SO4). The product was used as such without any purification.

reactant | Bis[2-(1,1-dimethylethyl)-4-[2-(methoxymethoxy)ethoxy]-5-methylphenyl]disulfide | CC(C)(C)C1=C(C=C(C(=C1)OCCOCOC)C)SSC1=C(C=C(C(=C1)C)OCCOCOC)C(C)(C)C | C30H46O6S2
reactant | dithiothreitol | 136 mmol, 21 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | 10 mL, pH:4.5 | P(=O)([O-])([O-])[O-]
reactant | H2O | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-tert-Butyl-4-(2-methoxymethoxy-ethoxy)-5-methyl-benzenethiol | C(C)(C)(C)C1=C(C=C(C(=C1)OCCOCOC)C)S | C15H24O3S
